US05109000
2-[3-Mercapto-6-methyl-4-[[[1-(S)-[(methylamino)carbonyl]-2-(4-methoxyphenyl)ethyl]amino]carbonyl]heptanoylamino]ethanoic acid (E15)
A solution of 2-[3-acetylmercapto-6-methyl-4-[[[1-(S)-[(methylamino)carbonyl]-2-(4-methoxyphenyl)ethyl]amino]carbonyl]heptanoylamino]ethanoic acid (E14, Isomer A; 15 mg, 0.029 mmol) in nitrogen-purged methanol (5 ml) was cooled in ice and treated with 35% aqueous ammonia (0.3 ml). After 2 h the solvents were evaporated in vacuo and the residue was triturated with ethyl acetate to give the title compound as a single isomer (Isomer A), 11 mg (80%), mp 228°-231° C.

reactant | 2-[3-acetylmercapto-6-methyl-4-[[[1-(S)-[(methylamino)carbonyl]-2-(4-methoxyphenyl)ethyl]amino]carbonyl]heptanoylamino]ethanoic acid | 0.029 mmol, 15 mg | C(C)(=O)SC(CC(=O)NCC(=O)O)C(CC(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC)C(=O)NC | C24H35N3O7S
reactant | ammonia | 0.3 ml | N | H3N
solvent | methanol | 5 ml | CO | CH4O
product | 2-[3-Mercapto-6-methyl-4-[[[1-(S)-[(methylamino)carbonyl]-2-(4-methoxyphenyl)ethyl]amino]carbonyl]heptanoylamino]ethanoic acid | SC(CC(=O)NCC(=O)O)C(CC(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC)C(=O)NC | C22H33N3O6S
